US07767705B2
3-Bromo-4-chlorobenzoic acid ethyl ester
To a solution of 3-bromo-4-chlorobenzoic acid (5.0 g, 21 mmol) in 150 mL absolute ethanol was added 15 mL of 4N HCl/dioxane. The mixture was heated to reflux for 24 hours then cooled to ambient temperature and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and H2O, and the separated organic phase was washed sequentially with saturated NaHCO3 solution, brine, dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound. 1H NMR (DMSO-d6) δ 8.22 (d, 1H), 7.94 (dd, 1H), 7.80 (d, 1H), 4.33 (q, 2H), 1.33 (t, 3H); MS (DCI+) m/z 263 (M+H)+.

reactant | 3-bromo-4-chlorobenzoic acid | 21 mmol, 5.0 g | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | HCl dioxane | 4N, 15 mL | Cl.O1CCOCC1
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-Bromo-4-chlorobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Cl)Br)=O | C9H8BrClO2
